US08871756B2
Methyl 3-[2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]propanoate
To a solution of methyl (2E)-3-[2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]prop-2-enoate (1.4 g, 3.91 mmol) in 30 mL of methanol was added 10% palladium on carbon (70 mg). After being vigorously stirred under hydrogen (balloon) for 3 hours, the reaction was filtered and the filtrate was concentrated in vacuo to give 1.4 g of product as a white solid (yield was 98%). MS obsd. (ESI+) [(M+H)+] 361.

reactant | methyl (2E)-3-[2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]prop-2-enoate | 3.91 mmol, 1.4 g | C1N(CCCC2=C1C=CC=C2)C2=NC1=CC=CC=C1C(=C2)/C=C/C(=O)OC | C23H22N2O2
solvent | methanol | 30 mL | CO | CH4O
catalyst | palladium on carbon | 70 mg | [Pd] | Pd
product | Methyl 3-[2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]propanoate | 1.4 g, yield was 98% | C1N(CCCC2=C1C=CC=C2)C2=NC1=CC=CC=C1C(=C2)CCC(=O)OC | C23H24N2O2
